US07087601B2
To 5 mL of trimethylsilyl polyphosphate was added 3-aminopyridin-2-ol (150 mg, 1.59 mmol) and 3-methoxy-4-pyridin-2-ylbenzoic acid (229 mg, 1.0 mmol). The mixture was heated at 200° C. for 2 h, quenched over ice, and made basic (pH 14) with 1N NaOH. The aqueous phase was extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The resultant oil was taken up in a minimum of EtOAc and purified by prep TLC (1:1 EtOAc/hexanes) to give 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[5,4-b]pyridine as a light yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.73 (dq, 1H), 8.43 (dd, 1H), 8.32 (dd, 1H), 8.02 (d, 1H), 7.99–7.93 (m, 2H), 7.92–7.85 (m, 2H), 7.55 (dd, 1H), 7.40 (ddd, 1H), 4.01 (s, 3H); MS (ESI) 304 (M+H)+.

reactant | trimethylsilyl polyphosphate | 5 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 3-aminopyridin-2-ol | 1.59 mmol, 150 mg | NC=1C(=NC=CC1)O | C5H6N2O
reactant | 3-methoxy-4-pyridin-2-ylbenzoic acid | 1.0 mmol, 229 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[5,4-b]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1OC2=NC=CC=C2N1 | C18H13N3O2
